US07576115B2
2) Synthesis of 4-{1-[4-Acetoxy-5-(3,4-dichlorophenyl)thiphen-3-yl]ethylidenehydrazinocarbonyl}-2-nitrobenzoic acid
The title compound was prepared from acetic acid 4-acetyl-2-(3,4-dichlorophenyl)thiophen-3-yl ester (39.5 mg, 0.12 mmol) and 4-hydrazinocarbonyl-2-nitrobenzoic acid (40.5 mg, 0.18 mmol) following the procedure described in the synthetic example 185.

reactant | acetic acid 4-acetyl-2-(3,4-dichlorophenyl)thiophen-3-yl ester | 0.12 mmol, 39.5 mg | C(C)(=O)C=1C(=C(SC1)C1=CC(=C(C=C1)Cl)Cl)OC(C)=O | C14H10Cl2O3S
reactant | 4-hydrazinocarbonyl-2-nitrobenzoic acid | 0.18 mmol, 40.5 mg | N(N)C(=O)C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7N3O5
product | 4-{1-[4-Acetoxy-5-(3,4-dichlorophenyl)thiphen-3-yl]ethylidenehydrazinocarbonyl}-2-nitrobenzoic acid | C(C)(=O)OC=1C(=CSC1C1=CC(=C(C=C1)Cl)Cl)C(C)=NNC(=O)C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C22H15Cl2N3O7S
